US06316482B1
To a solution of 4-(2-amino-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (90 mg) in pyridine (1 ml) was added methanesulfonyl chloride (18 mg) in ice water bath under nitrogen and the mixture was stirred at the same temperature for 3 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in chloroform. The organic layer was washed successively with saturated aqueous sodium bicarbonate solution, water and brine and the solution was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 4-(2-methanesulfonylamino-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (15 mg) as a powder.

reactant | 4-(2-amino-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 90 mg | NC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C35H43N7O5
reactant | methanesulfonyl chloride | 18 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-methanesulfonylamino-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 15 mg | CS(=O)(=O)NC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C36H45N7O7S
